US07419999B2
Intermediate 27.1. Methyl 1-(phenyl)cyclopentanecarboxylate
To a solution of methyl 1-(2-fluorophenyl)cyclopentanecarboxylic acid (10 g, 52.56 mmol) in anhydrous methanol was added 1 mL of the concentration of sulfuric acid. The mixture was refluxed for overnight. The mixture was neutralized to pH 4-5 with sodium carbonate. The solvent was evaporated. The residue was dissolved in ethyl acetate (50 mL), washed with brine (3×10 mL), dried over MgSO4. The crude product was used for the next reaction without further purification.

reactant | methyl 1-(2-fluorophenyl)cyclopentanecarboxylic acid | 52.56 mmol, 10 g | CC1C(CCC1)(C(=O)O)C1=C(C=CC=C1)F | C13H15FO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | Methyl 1-(phenyl)cyclopentanecarboxylate | C1(=CC=CC=C1)C1(CCCC1)C(=O)OC | C13H16O2
